US05089657
A solution of 2-chloro-1,4-naphthoquinone (10.3 g) in tetrahydrofuran (100 mL) was treated with a suspension of sodium ethoxide (3.20 g) in tetrahydrofuran (25 mL) at room temperature. After stirring overnight, the mixture was evaporated, and the residue was taken up in ether. The organic layer was washed with brine, dried, filtered and evaporated. Chromatography over silica gel gave 2-methoxy-1,4-naphthoquinone, m.p. 182°-183° C.

reactant | 2-chloro-1,4-naphthoquinone | 10.3 g | ClC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H5ClO2
reactant | sodium ethoxide | 3.20 g | [O-]CC.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2-methoxy-1,4-naphthoquinone | COC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O3
